US06114390
a) 4-[[[(1,1-Dimethylethoxy)carbonyl]amino]methyl]benzene propanamide
Prepared analogously to Example 63a) from 4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]benzene propanoic acid, N,N'-carbonyldiimidazole and ammonium carbonate in a yield of 84% of theory. Colourless crystals, which were used in the following step without purification.

reactant | 4-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]benzene propanoic acid | CC(C)(OC(=O)NCC1=CC=C(C=C1)CCC(=O)O)C | C15H21NO4
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
product | 4-[[[(1,1-Dimethylethoxy)carbonyl]amino]methyl]benzene propanamide | yield of 84% | CC(C)(OC(=O)NCC1=CC=C(C=C1)CCC(=O)N)C | C15H22N2O3
